US08044198B2
Preparation of 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine-3-carbaldehyde
In a dry flask charged with DMF (2.7 g, 37 mmol) and cooled to 0° C. was added slowly POCl3 over 5 minutes. The solution was stirred for 10 min at 0° C. was warmed to room temperature over 1 hour. To the deep red color solution recooled to 0° C. was added 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine (1.0 g, 4.18 mmol) in DMF (8 ml). The reaction was stirred for 5.5 hours; LC-MS indicated some product formation. A second addition of the Vilsmeier complex (from 2.7 g of DMF and 1.47 g POCl3) was charged and the reaction stirred overnight, then heated to 50° C. for 3 hours until reaction completion. The reaction was cooled to room temperature, poured onto ice, adjusted to pH=7 with 1N NaOH. The product was extracted into CH2Cl2 (3×50 ml), washed with brine, dried over Na2SO4 and concentrated to obtain the product as a white solid (1.03 g, 92% yield). (MS, M++H=268.0)

reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine | 4.18 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2N(C=CC=C2)C1 | C13H9N3O2
reactant | POCl3 | 1.47 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1N | [OH-].[Na+]
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | DMF | 2.7 g | CN(C)C=O | C3H7NO
reactant | DMF | 37 mmol, 2.7 g | CN(C)C=O | C3H7NO
product | 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyridine-3-carbaldehyde | 1.03 g, 92% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2N(C=CC=C2)C1C=O | C14H9N3O3
